US05688798
A solution of 8.0 g (0.031 mol) of 1-(2-chloro-phenyl)-piperazine in 300 ml of tetrahydrofuran was treated with 22 ml (0.16 mol) of triethylamine and 11.5 g (0.031 mol) of 5-bromomethyl-pyrimidine-2,4-diamine dihydrobromide and the mixture was stirred at room temperature under argon for 16 hours. The suspension obtained was suction filtered and the filtrate was completely freed from the solvents. The residue was chromatographed over silica gel with acetonitrile/methanol 1:1 as the eluent and digested in diethyl ether. 5.5 g (55%) of 5-[4-(2-chloro-phenyl)-piperazin-1-ylmethyl]-pyrimidine-2,4-diamine were obtained as beige crystals; m.p. 2:30°-235°.

reactant | 1-(2-chloro-phenyl)-piperazine | 0.031 mol, 8.0 g | ClC1=C(C=CC=C1)N1CCNCC1 | C10H13ClN2
reactant | triethylamine | 0.16 mol, 22 ml | C(C)N(CC)CC | C6H15N
reactant | 5-bromomethyl-pyrimidine-2,4-diamine dihydrobromide | 0.031 mol, 11.5 g | Br.Br.BrCC=1C(=NC(=NC1)N)N
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 5-[4-(2-chloro-phenyl)-piperazin-1-ylmethyl]-pyrimidine-2,4-diamine | 5.5 g, 55% | ClC1=C(C=CC=C1)N1CCN(CC1)CC=1C(=NC(=NC1)N)N | C15H19ClN6
